US06001855
4.05 ml of benzyl isocyanate are added to a solution of 5.0 g of ethyl 2-amino-4-methyl-thiazole-5-carboxylate in 50 ml of DMF. The reaction mixture is stirred at RT overnight, evaporated on a rotary evaporator and the residue is suspended in methylene chloride:methanol 1:1. The insoluble material is filtered off and dried. There are obtained 4.6 g of colorless ethyl 2-(3-benzyl-ureido)-4-methyl-thiazole-5-carboxylate, MS: 320 (M+H)+.

reactant | benzyl isocyanate | 4.05 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | ethyl 2-amino-4-methyl-thiazole-5-carboxylate | 5.0 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(3-benzyl-ureido)-4-methyl-thiazole-5-carboxylate | 4.6 g | C(C1=CC=CC=C1)NC(NC=1SC(=C(N1)C)C(=O)OCC)=O | C15H17N3O3S
